US09108969B2
Step E: Preparation of 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
To a solution of tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.418 g, 0.830 mmol) in dioxanes (10 mL) was added 1.0 M solution of LiOH (aq, 2.5 mL). The reaction was stirred at 70° C. for 4 h and acidified with 1M HCl (aq) to pH 3.0. The mixture was extracted with EtOAc, dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a yellow solid (137 mg). LCMS m/z=448.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28 (d, J=5.94 Hz, 6H), 2.15-2.26 (m, 1H), 2.51-2.59 (m, 1H), 2.64-2.72 (m, 1H), 2.72-2.82 (m, 1H), 3.53-3.63 (m, 1H), 3.91-4.00 (m, 1H), 4.05-4.14 (m, 1H), 4.74-4.82 (m, 1H), 5.05 (s, 2H), 6.01 (s, 1H), 6.75 (dd, J=8.72, 2.40 Hz, 1H), 7.06 (d, J=2.27 Hz, 1H), 7.18 (d, J=8.84 Hz, 1H), 7.26-7.32 (m, 1H), 7.63-7.69 (m, 2H), 12.28 (bs, 1H).

reactant | tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.830 mmol, 0.418 g | C(C)(C)OC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C28H32F3NO4
reactant | LiOH | 2.5 mL | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
product | 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 137 mg | C(C)(C)OC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C24H24F3NO4
